US20010056188A1
1) 3-(3,5-Bis(trifluoromethyl)phenylamino)-2-methanesulfonyl-3-methylsulfanyl-2-propenenitrile
To a solution of methanesulfonylacetonitrile (0.55 g, 4.6 mmol) in dry acetone (10 ml) first dry potassium carbonate (1.28 g, 9.3 mmol) and then 3,5-bis(trifluorornethyl)phenyl isothiocyanate (1,32 g, 4.7 mmol) were added. The resulting mixture was stirred at room temperature under nitrogen for 4 h, and then filtered. To the filtrate methyl iodide (0.86 ml, 13.9 mmol) was added. The mixture was stirred at room temperature for 2 h. The reaction mixture was filtered and the filtrate was concentrated. The residue was dissolved in dichloromethane and washed with water. The organic layer was dried (sodium sulfate) and concentrated. The residue was recrystallised from ethyl acetate/heptane 1:2 to give the title compound (1.55 g, 83%). Mp 129-131° C. 1H NMR (200 MHz, CDCl3): δ=2.35 (s, 3H), 3.25 (s, 3H), 7.77 (s, 2H), 7.80 (s, 1H)H), 9.90 (br s, 1H); EI SP/MS: 404 (M+).

reactant | methanesulfonylacetonitrile | 4.6 mmol, 0.55 g | CS(=O)(=O)CC#N | C3H5NO2S
reactant | potassium carbonate | 9.3 mmol, 1.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-bis(trifluorornethyl)phenyl isothiocyanate | 4.7 mmol, 1,32 g | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=S)(F)F | C9H3F6NS
reactant | methyl iodide | 13.9 mmol, 0.86 ml | CI | CH3I
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 3-(3,5-Bis(trifluoromethyl)phenylamino)-2-methanesulfonyl-3-methylsulfanyl-2-propenenitrile | 1.55 g, 83% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C)SC)(F)F | C13H10F6N2O2S2
